Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PLASTIC
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Left breast cancer, breast cancer ovarian syndrome, BRCA2 
mutation carrier
 
Major Surgical or Invasive Procedure:
s/p bilateral skin-sparing mastectomies with immediate 
reconstruction and a bilateral salpingo-oophorectomy (___)

 
History of Present Illness:
This ___ female initially was diagnosed with carcinoma 
of the left breast on ___, at the ___. 
She underwent a left partial
mastectomy with sentinel node biopsy on ___, and was 
found to have an invasive carcinoma with ductal and lobular 
features, 0.7 cm, grade 1 with ___ sentinel nodes positive for 
metastatic disease. The tumor was ERC negative. The
lateral margin was involved with invasive carcinoma. She 
subsequently underwent a re-excision on ___, and was 
found to have no residual disease. She was initially elected to 
proceed with breast-conserving surgery, but after
consultation with the high risk genetic counselors and 
subsequent testing was found to be BRCA2 positive. At this time 
she elected to proceed with bilateral mastectomies and bilateral 
salpingo-oophorectomies and subsequently opted to
proceed with breast reconstruction as well.
 
Past Medical History:
PMH: infertility
PSH: eye laser surgery, laparoscopy, L breast partial mastectomy 
with sentinal node biopsy

 
Social History:
___
Family History:
Significant for mother with breast cancer at the age ___, two 
maternal aunt were diagnosed with postmenopausal breast cancer, 
one at the age of ___ and one late in her ___. She also had a 
maternal grandmother who developed breast cancer in
her ___ and died at the age of ___. She had one maternal uncle 
who developed pancreatic cancer and died of that.
 
Physical Exam:
VS: Afebrile, VSS
Gen: NAD
CV: RRR, no murmurs
Resp: CTAB, no wheezes or crackles
Breast: Bilateral incisions c/d/i, JP drains x2 with 
serosanguinous fluid
Abd: Soft, mildly TTP, nondistended, +BS, incisions c/d/i
Ext: Warm, distal pulses palpable bilaterally
 
Pertinent Results:
Cytology ReportPERITONEAL WASHINGS
REPORT APPROVED DATE: ___
SPECIMEN RECEIVED: ___    
SPECIMEN DESCRIPTION: Received 25ml pale yellow fluid.
CLINICAL DATA: Breast Ca.
DIAGNOSIS: NEGATIVE FOR MALIGNANT CELLS. Mesothelial cells, 
lymphocytes and histiocytes.

 
Brief Hospital Course:
The patient was admitted to the plastic surgery service on 
___ and had a bilateral skin-sparing mastectomies with 
immediate reconstruction and a bilateral salpingo-oophorectomy 
(___). The patient tolerated the procedure well with daily 
checks of her incisions and JP drain output.

Neuro: The patient received IV morphine with good effect and 
adequate pain control. When tolerating oral intake, the patient 
was transitioned to oral Vicodin and Tylenol.  

CV: The patient was stable from a cardiovascular standpoint;  
vital signs were routinely monitored.

Pulmonary:  The patient was stable from a pulmonary standpoint; 
vital signs were routinely monitored. 

GI/GU: Post-operatively, the patient was given IV fluids until 
tolerating oral intake. Her diet was advanced when appropriate, 
which was tolerated well. She was also started on a bowel 
regimen to encourage bowel movement. Foley was removed on POD#1. 
Intake and output were closely monitored. 

ID: Post-operatively, the patient was started on IV cefazolin. 
The patient's temperature was closely watched for signs of 
infection. 

At the time of discharge on POD#2, the patient was doing well, 
afebrile with stable vital signs, tolerating a regular diet, 
ambulating, voiding without assistance, and pain was well 
controlled.
 
Medications on Admission:
fosamax, paxil, calcium citrate, multivitamin with 
minerals/herbs
 
Discharge Medications:
1. Acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed.
Disp:*30 Tablet(s)* Refills:*0*
2. Hydrocodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q4H (every 4 hours) as needed.
Disp:*30 Tablet(s)* Refills:*0*
3. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*2*
4. Fosamax 35 mg Tablet Sig: One (1) Tablet PO once a week.  
5. Paxil 40 mg Tablet Sig: One (1) Tablet PO once a day.  
6. Calcium Citrate  Oral
7. Multivitamin W-Minerals-Herbs     Tablet Sig: One (1) Tablet 
PO once a day.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Left breast cancer.
Breast cancer ovarian syndrome, BRCA2 mutation carrier.
s/p bilateral skin-sparing mastectomies with immediate 
reconstruction and a bilateral salpingo-oophorectomy (___)

 
Discharge Condition:
Good

 
Discharge Instructions:
Return to the ER if: 
* If you are vomiting and cannot keep in fluids or your 
medications. 
* If you have shaking chills, or a fever greater than 101.5 (F) 
degrees or 38(C) degrees.
* Any serious change in your symptoms, or any new symptoms that 
concern you.
* Please resume all regular home medications and take any new 
meds as ordered. 
* Do not drive or operate heavy machinery while taking any 
narcotic pain medication. You may have constipation when taking 
narcotic pain medications (oxycodone, percocet, vicodin, 
hydrocodone, dilaudid, etc.); you should continue drinking 
fluids, you may take stool softeners, and should eat foods that 
are high in fiber.
*No strenuous activity
*Okay to shower, but no baths until after directed by your 
surgeon
 
Followup Instructions:
___